US06211215B1
In substantially the same manner as in Working Example 8, 2-methylimidazole was allowed to react with 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate to give 4-[4-[3-(2-methyl-1-imidazolyl)propyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole. The yield was 47%. Recrystallization form ethyl acetate-hexane gave colorless prisms, mp 93-94° C.

reactant | 2-methylimidazole | CC=1NC=CN1 | C4H6N2
reactant | 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate | CS(=O)(=O)OCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C22H23NO5S
product | 4-[4-[3-(2-methyl-1-imidazolyl)propyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole | yield was 47% | CC=1N(C=CN1)CCCC1=CC=C(OCC=2N=C(OC2)\C=C\C2=CC=CC=C2)C=C1 | C25H25N3O2
